US20010041799A1
N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-nitro-L-phenylalanine methyl ester.
To a mixture of N-[(2-chloro-6-methylphenyl)carbonyl]-4-nitro-L-phenylalanine methyl ester (9.66 mmol, 3.64 g) and Lawesson's reagent (6.0 mmol, 2.46 g, 0.62 equiv.) was added toluene (15 mL, which had been stored over 4 A molecular sieves) at room temperature. The suspension was heated to 90-100° C. and was stirred for 24 h. Examination of the resulting clear solution by TLC failed to detect the presence of starting material. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL), saturated sodium bicarbonate solution (50 mL), and brine (50 mL). The organic extract was dried (MgSO4) filtered and evaporated under reduced pressure. The crude compound was purified by careful silica gel column chromatography (hexane:ethyl acetate, 4:1 to 2:1) to obtain 1.52 g (40%) of N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-nitro-L-phenylalanine methyl ester as a yellow solid, mp 150-153° C. (triturated from diethyl ether/ hexane 3:1 ratio). HRMS: Obs. mass, 393.0685. Calcd. mass, 393.0677 (M+H).

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-nitro-L-phenylalanine methyl ester | 9.66 mmol, 3.64 g | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17ClN2O5
reactant | Lawesson's reagent | 6.0 mmol, 2.46 g, 0.62 equiv. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-nitro-L-phenylalanine methyl ester | COC([C@@H](NC(=S)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17ClN2O4S
